US05677346
reacting N-ethyl-4-methoxybenzenemethanamine with 2-propyn-1-ol and paraformaldehyde in an inert solvent in the presence of cuprous chloride to produce 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butyn-1-ol;

reactant | N-ethyl-4-methoxybenzenemethanamine | C(C)NCC1=CC=C(C=C1)OC | C10H15NO
reactant | 2-propyn-1-ol | C(C#C)O | C3H4O
reactant | paraformaldehyde | C=O | CH2O
product | 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butyn-1-ol | C(C)N(CC#CCO)CC1=CC=C(C=C1)OC | C14H19NO2
